US04620865
A mixture of 7.8 g of 5-chloro-1-(3-chlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester and 3.0 g of potassium hydroxide in 200 ml of 3A ethanol was refluxed for four hours. The solution was poured into ice water and acidified with hydrochloric acid. The aqueous acid solution was extracted with ethyl acetate. The organic phase was washed with water, dried, and concentrated under vacuum. The residue was recrystallized from ethanol to afford 5.7 g of 5-chloro-1-(3-chlorophenyl)-1H-pyrazole-4-carboxylic acid. Yield 80%. mp=209°-211° C.

reactant | 5-chloro-1-(3-chlorophenyl)-1H-pyrazole-4-carboxylic acid, ethyl ester | 7.8 g | ClC1=C(C=NN1C1=CC(=CC=C1)Cl)C(=O)OCC | C12H10Cl2N2O2
reactant | potassium hydroxide | 3.0 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | 5-chloro-1-(3-chlorophenyl)-1H-pyrazole-4-carboxylic acid | 5.7 g, Yield 80% | ClC1=C(C=NN1C1=CC(=CC=C1)Cl)C(=O)O | C10H6Cl2N2O2
